US07183306B2
A 4M solution of HCl in dioxane (2 ml) was added to a solution of ter-butyl (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)carbamate (269.7 mg) in CH2Cl2 (2 ml) . The reaction mixture was stirred at ambient temperature for 2 hours, then, was concentrated in vacuo to give (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine dihydrochloride (259 mg) as an amorphous powder.

reactant | HCl | Cl | ClH
reactant | ter-butyl (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)carbamate | 269.7 mg | C(=C)(C)C1=NN(C(=C1)C1=CC=C(OCCNC(OC(C)(C)C)=O)C=C1)C=1C=NC(=CC1)OC | C25H30N4O4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine dihydrochloride | 259 mg | Cl.Cl.C(=C)(C)C1=NN(C(=C1)C1=CC=C(OCCN)C=C1)C=1C=NC(=CC1)OC | InChI=1S/C20H22N4O2.2ClH/c1-14(2)18-12-19(15-4-7-17(8-5-15)26-11-10-21)24(23-18)16-6-9-20(25-3)22-13-16;;/h4-9,12-13H,1,10-11,21H2,2-3H3;2*1H
